US07183290B2
C. (2S,4S)-4-Fluoro-1-[({1-[4-(trifluoromethyl)phenyl]piperidin-4-yl}amino)acetyl]pyrrolidine-2-carbonitrile hydrochloride.
A round bottom flask was mixed with 1-[4-(trifluoromethyl)phenyl]piperidin-4-amine hydrochloride (337 mg, 1.34 mmol), (2S,4S)-1-(bromoacetyl)-4-fluoropyrrolidine-2-carbonitrile (316 mg, 1.34 mmol), trietylamine (408 mg, 04.03 mmol) and acetonitrile (20 mL). The reaction mixture was allowed to stir at RT for 17.0 hours. The reaction mixture was concentrated to dryness. The reaction mixture was partitioned between EtOAc and saturated NaHCO3 and the organics were dried over MgSO4. The organics were concentrated to dryness and dried in vacuo. The resulting crude solid was purified using silica gel chromatography (99% CH2Cl2/1% MeOH, with 1.7% NH3) to yield a pure solid. The solid was dissolved into a 1/1 acetone/ether solution and mixed with several drops of 4.0 N HCl in 1,4-dioxane. The resulting solid was filtered and dried in vacuo to give a total of 277 mg of pure solid.

reactant | 1-[4-(trifluoromethyl)phenyl]piperidin-4-amine hydrochloride | 1.34 mmol, 337 mg | Cl.FC(C1=CC=C(C=C1)N1CCC(CC1)N)(F)F
reactant | (2S,4S)-1-(bromoacetyl)-4-fluoropyrrolidine-2-carbonitrile | 1.34 mmol, 316 mg | BrCC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C7H8BrFN2O
reactant | trietylamine | 408 mg | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | HCl | 4.0 N, several drops | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | acetone ether | CC(=O)C.CCOCC
product | (2S,4S)-4-Fluoro-1-[({1-[4-(trifluoromethyl)phenyl]piperidin-4-yl}amino)acetyl]pyrrolidine-2-carbonitrile hydrochloride | 277 mg | Cl.F[C@H]1C[C@H](N(C1)C(CNC1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)=O)C#N | InChI=1S/C19H22F4N4O.ClH/c20-14-9-17(10-24)27(12-14)18(28)11-25-15-5-7-26(8-6-15)16-3-1-13(2-4-16)19(21,22)23;/h1-4,14-15,17,25H,5-9,11-12H2;1H/t14-,17-;/m0./s1
